US09382237B2
4-((5-amino-4-carbamoyl-1H-pyrazol-3-yl)amino)benzoic acid was then suspended in 8 mL EtOH and 4-hydroxybenzaldehyde (325 mg, 1 eq.) and piperidine (4 drops) were added. Stirred at reflux until intermediate was absent (HPLC). After reaction was complete (18 hrs) it was brought to room temperature and filtered to obtain 4-((4-carbamoyl-5-((4-hydroxybenzylidene)amino)-1H-pyrazol-3-yl)amino)benzoic acid as a yellow powder. Powder was washed with EtOH to remove any excess 4-hydroxybenzaldehyde. Product was allowed to dry under vacuum for 1 hr.

reactant | 4-((5-amino-4-carbamoyl-1H-pyrazol-3-yl)amino)benzoic acid | NC1=C(C(=NN1)NC1=CC=C(C(=O)O)C=C1)C(N)=O | C11H11N5O3
reactant | 4-hydroxybenzaldehyde | 325 mg, 1 eq. | OC1=CC=C(C=O)C=C1 | C7H6O2
solvent | EtOH | 8 mL | CCO | C2H6O
catalyst | piperidine | 4 drops | N1CCCCC1 | C5H11N
product | 4-((4-carbamoyl-5-((4-hydroxybenzylidene)amino)-1H-pyrazol-3-yl)amino)benzoic acid | C(N)(=O)C=1C(=NNC1N=CC1=CC=C(C=C1)O)NC1=CC=C(C(=O)O)C=C1 | C18H15N5O4
